US06911341B2
50 kg of wet cell paste obtained by fermenting E. aerogenes were resuspended in approximately 200 liters of 30 mM phosphate buffer at pH 7 and mixed with 800 liters of phosphate buffer in which had been dissolved at elevated temperature 5.4 kg of adenine (final concentration 40 mM) and 8.9 kg of Ara-U (final concentration 40 mM). The mixture was maintained at 60° C., with agitation, for 20 hours, diluted to approximately 3000 liters with hot H2O and subjected to diafiltration on a membrane, collecting approximately 5000 liters of ultrafiltrate. The bioconversion yield determined by RP-HPLC was approximately 55%. The residue containing the cell paste is used for a subsequent reaction. The ultrafiltrate was concentrated to approximately 1000 liters and cooled to collect the precipitate constituted by Ara-A contaminated with non-reacted adenine (approximately 30 g of adenine per 100 g of Ara-A). 5 kg of Ara-A (total yield approximately 46%) with a degree of purity higher than 99.5% were finally obtained after crystallisation with H2O.

reactant | adenine | 5.4 kg | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | Ara-U | 8.9 kg | C1=CN(C(=O)NC1=O)[C@H]2[C@H]([C@@H]([C@H](O2)CO)O)O | C9H12N2O6
solvent | phosphate | 30 mM, approximately 200 liters | P(=O)([O-])([O-])[O-]
solvent | H2O | O | H2O
solvent | phosphate | 800 liters | P(=O)([O-])([O-])[O-]
product | Ara-A | 5 kg, yield approximately 46% | C1=NC(=C2C(=N1)N(C=N2)[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)O)N | C10H13N5O4
